US08309562B2
(2-Aminomethyl-quinazolin-4-yl)-(3-chloro-4-ethoxy-phenyl)-methyl-amine bis(hydrochloride)
The title compound was synthesized as a pale yellow-green solid (83 mg; 91%) in a manner analogous to that found in Example 254 from 2-{4-[(3-chloro-4-ethoxy-phenyl)-methyl-amino]-quinazolin-2-ylmethyl}-isoindole-1,3-dione (104 mg, 0.220 mmol) and hydrazine monohydrate (85 μL, 1.8 mmol). 1H NMR (DMSO-d6) δ 8.62 (m(br), 3H), 7.87 (m, 1H), 7.81 (m, 1H), 7.64 (m, 1H), 7.35-7.28 (m, 2H), 7.25 (d, J=8.8 Hz, 1H), 6.96 (d, J=8.8 Hz, 1H), 4.36 (m, 2H), 4.17 (q, J=6.9 Hz, 2H), 3.69 (s, 3H), 1.39 (t, J=6.8 Hz, 3H); LC-MS (ESI+; 343 ([M+H]+)).

reactant | 2-{4-[(3-chloro-4-ethoxy-phenyl)-methyl-amino]-quinazolin-2-ylmethyl}-isoindole-1,3-dione | 0.220 mmol, 104 mg | ClC=1C=C(C=CC1OCC)N(C1=NC(=NC2=CC=CC=C12)CN1C(C2=CC=CC=C2C1=O)=O)C | C26H21ClN4O3
reactant | hydrazine monohydrate | 1.8 mmol, 85 μL | O.NN
product | (2-Aminomethyl-quinazolin-4-yl)-(3-chloro-4-ethoxy-phenyl)-methyl-amine bis(hydrochloride) | Cl.Cl.NCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC(=C(C=C1)OCC)Cl | InChI=1S/C18H19ClN4O.2ClH/c1-3-24-16-9-8-12(10-14(16)19)23(2)18-13-6-4-5-7-15(13)21-17(11-20)22-18;;/h4-10H,3,11,20H2,1-2H3;2*1H
